US05451687
To the reaction vessel employed in Example 30, 50 g of O,O'-dibenzoyl-D-tartaric anhydride and 150 g of water were supplied and the mixture was stirred at 90°-95° C. for 1 hour to carry out hydrolysis. After cooling the reaction mixture to 50° C., 5 g of toluene and 0.1 g of seed crystal of O,O'-dibenzoyl-D-tartaric acid were added and the mixture was slowly cooled. Since oily product began to crystalize at 48° C., the mixture was stirred for 1 hour at this temperature. After completion of crystallization, the reaction slurry was cooled to room temperature and the crystals were collected by filtration. The thus obtained cake was dried to obtain 51.2 g of O,O'-dibenzoyl-D-tartaric acid hydrate in the form of white crystals. The content of crystal water was measured by Karl Fischer method, which was 4.6% (yield: 92.8%). The crystals were sieved through a 20-mesh sieve and 96 wt % of the crystals passed through the sieve. The amount of the crystals which adhered to the wall or to the stirrer of the reaction apparatus so that which could not be removed from the reaction apparatus was 1.5 g which was 2.8 wt % of the total crystals produced.

reactant | water | 150 g | O | H2O
reactant | O,O'-dibenzoyl-D-tartaric acid | C(C1=CC=CC=C1)(=O)OC([C@@H](O)[C@H](O)C(=O)OC(C1=CC=CC=C1)=O)=O | C18H14O8
solvent | toluene | 5 g | C1(=CC=CC=C1)C | C7H8
product | O,O'-dibenzoyl-D-tartaric acid hydrate | 51.2 g, yield: 92.8% | O.C(C1=CC=CC=C1)(=O)OC([C@@H](O)[C@H](O)C(=O)OC(C1=CC=CC=C1)=O)=O | InChI=1S/C18H14O8.H2O/c19-13(17(23)25-15(21)11-7-3-1-4-8-11)14(20)18(24)26-16(22)12-9-5-2-6-10-12;/h1-10,13-14,19-20H;1H2/t13-,14-;/m0./s1
